Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Food impaction
 
Major Surgical or Invasive Procedure:
EGD ___
 
History of Present Illness:
 Patient is a ___ year old woman with history of prior food 
impaction, who presented to ___ on ___ with complaint of 
food impaction.  Of note, the patient has had 4 episodes of food 
impaction in the past, once improving with glucagon and 
requiring 3 EGDs so far. She presented to ___ on 
___ for food impaction, with EGD showing small hiatal hernia 
and an area of stenosis just proximal to the hiatal hernia. Her 
most recent food impaction episode was on ___, and at that 
time her symptoms improved after receiving glucagon,  and she 
was discharged without an endoscopy.  
 On the day of the current admission, she was eating sausage and 
she had a sensation that it was "stuck in her throat". Since 
then she was unable to tolerate anything by mouth and was 
spitting up her secretions. She said that this felt very similar 
to the last time she was seen in the ED for food impaction.  
 On arrival to the floor, the patient noted painful swallowing 
and  a foreign body sensation in her mid-throat/upper chest.  
 In the ED, initial vitals were:  
 98.8 94 165/81 18 100% RA  
 - Exam notable for:  
 actively spitting up secretions, in bucket, airway patent  
 - Labs notable for:  
 WBC 11.1  
 - Imaging was notable for:  
 CXR without radiopaque foreign body or e/o esophageal 
perforation  
 - Patient was given:  
 ___ 22:58 IV Ondansetron 4 mg  
 ___ 23:01 IV Glucagon 1 mg  
 
Past Medical History:
 Multiple food impactions  
 ?Nephrolithiasis  
 Hypothyroidism not on medications  
 
Social History:
___
Family History:
 No family history of allergic symptoms or EoE, mother had 
esophageal webs and had many issues with dysphagia and food 
impaction 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
Vital Signs: 98.6 130 / 77 76 16 98 Ra  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple. No LAD, no subcutaneous emphysema  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

DISCHARGE PHYSICAL EXAM:
=======================
Vital Signs: T=98.1F; BP=119 / 58mmHg;HR=69x'; RR=18x';SpO2=98 
Ra    
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple. No LAD, no subcutaneous emphysema  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 
Pertinent Results:
PERTINENT LAB RESULTS:
====================

___ 06:25AM BLOOD WBC-7.8 RBC-3.81* Hgb-10.0* Hct-32.5* 
MCV-85 MCH-26.2 MCHC-30.8* RDW-15.0 RDWSD-46.5* Plt ___
___ 12:50AM BLOOD WBC-11.1* RBC-3.92 Hgb-10.2* Hct-33.5* 
MCV-86 MCH-26.0 MCHC-30.4* RDW-15.1 RDWSD-47.4* Plt ___
___ 12:50AM BLOOD Neuts-84.9* Lymphs-8.4* Monos-4.6* 
Eos-1.1 Baso-0.5 Im ___ AbsNeut-9.42* AbsLymp-0.93* 
AbsMono-0.51 AbsEos-0.12 AbsBaso-0.06
___ 06:25AM BLOOD Glucose-88 UreaN-7 Creat-0.7 Na-138 K-4.0 
Cl-104 HCO3-24 AnGap-14
___ 12:50AM BLOOD Glucose-96 UreaN-8 Creat-0.7 Na-138 K-3.8 
Cl-103 HCO3-26 AnGap-13
___ 06:25AM BLOOD Calcium-8.1* Phos-2.6* Mg-2.1
___ 12:50AM BLOOD Iron-24*
___ 12:50AM BLOOD calTIBC-402 Ferritn-7.0* TRF-309
___ 12:50AM BLOOD TSH-43*
___ 06:25AM BLOOD T4-5.6

IMAGING:
====================
Chest x-ray ___
FINDINGS: 
 
The lungs are well expanded and clear without lobar 
consolidation, pleural
effusion, pneumothorax, or pulmonary edema.  The 
cardiomediastinal silhouette
is within normal limits.  No radiopaque foreign body is 
visualized. No acute
displaced rib fracture.
 
IMPRESSION: 
 
No evidence for acute cardiopulmonary process.  Specifically, no 
radiopaque
foreign body is visualized.

EGD ___
Findings:
Esophagus:
Contents:Food was found in the esophagus starting at 25cm from 
the incisors. After removal of liquid, a solid food bolus was 
encountered. This was moved into the stomach with gentle 
pressure.  
Mucosa:Erythema and friability of the mucosa with contact 
bleeding were noted in the lower third of the esophagus. These 
findings are compatible with esophagitis. 
Stomach:
Mucosa:Erythema and erosion of the mucosa were noted in the 
antrum. 
OtherNo strictures or masses noted.  
Duodenum:Normal duodenum.
Impression:Food in the esophagus
Erythema and friability in the lower third of the esophagus 
compatible with esophagitis
Erythema and erosion in the antrum
No strictures or masses noted.
Otherwise normal EGD to third part of the duodenum
Recommendations:- Advance diet as tolerated. 
- Take small bites, chew well and use sips of water between 
bites.
- PPI 40mg BID x 4 weeks, then decrease to once daily
- check H. pylori stool antigen and treat if positive
- Repeat EGD in ___ weeks to biopsy for EoE and re-evaluate 
gastritis.
Additional notes:FINAL DIAGNOSES are listed in the impression 
section above. Estimated blood loss = zero. No specimens were 
taken for pathology The procedure was performed by the fellow 
and the attending. I was personally present during the entire 
viewing and collaborated with the fellow on the findings of this 
report.
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
============================
-She will need a repeat EGD in ___ weeks after discharge
-She was started on Omeprazole 40mg PO BID. She will need to 
take this for 1 month. Afterwards, the dose of Omeprazole will 
decrease to 40mg PO Daily.
-Her TSH was elevated at 43uIU/mL. She has a history of 
hypothyroidism but was not taking any medications for it. We 
started her on Levothyroxine 25mcg daily
-She has pending H.pylori serologies obtained during this 
hospitalization. She will need treatment for H.pylori if these 
serologies are positive
-She was found to have anemia and low iron levels during this 
hospitalizations. She will need iron supplementation and 
follow-up of her anemia and discussion regarding age appropriate 
cancer screening. Given a prescription for iron and instructed 
to take stool softner in the outpatient setting 
-She will need a more comprehensive work-up for dysphagia, we 
suggest rheumatologic studies and evaluation for ___ 
syndrome.
- Recommend age appropriate cancer screening in the outpatient 
setting 

Ms. ___ is a ___ year old woman with a history of prior food 
impaction, hypothyroidism (not on medications) who presented to 
___ on ___ with complaint of food impaction. 
She had an EGD on ___, which demonstrated a solid food 
bolus in the esophagus and esophagitis. She did not have any 
complications after the procedure. TSH was noted to be elevated, 
consistent with subclinical hypothyroidism. Iron studies 
revealed iron deficiency anemia. She was instructed to start 
Synthroid and Iron supplementation and follow up with PCP ___ 
___ years since last PCP follow up. ___ had H. pylori serologies 
sent and was initiated on PPI, with planned repeat EGD in ___ 
weeks. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Levothyroxine Sodium 25 mcg PO DAILY 
RX *levothyroxine [Levo-T] 25 mcg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
3.  Omeprazole 40 mg PO BID Duration: 4 Weeks 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice daily Disp #*56 
Capsule Refills:*1 
4.  Senna 8.6 mg PO BID:PRN constipation   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Food impaction in the esophagus
Esophagitis
Hypothyroidism
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___:
 You were admitted to ___ 
because you had some food stuck in your throat. We did some 
tests, including an endoscopy of your upper gastrointestinal 
tract. These tests found that you had some food in your 
esophagus, and also that your esophagus was significantly 
inflamed.
 You are tolerating your diet and you are feeling better, and we 
think you can continue your recovery at home. We still do not 
know the exact cause that is making you have trouble swallowing 
food adequately. You will likely need more work-up as an 
outpatient to figure this out.
 You will also need another EGD in ___ weeks. We gave you some 
new medications for the inflammation of your esophagus and for 
your low levels of thyroid hormone, please take them as 
prescribed. Also, please make sure that you attend your 
follow-up appointment with the gastroenterologist, and make sure 
that you schedule an appointment with your primary care doctor.
Thank you for allowing us to participate in your care.
-Your ___ care team 
 
Followup Instructions:
___